Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
codeine / sulfur
 
Attending: ___.
 
Chief Complaint:
Cerebral aneurysm
 
Major Surgical or Invasive Procedure:
___: STENT ASSISTED COIL EMBOLIZATION OF CEREBRAL ANEURYSM

 
History of Present Illness:
___ year old right handed female with history of HTN, HLD, IBS 
and concussion in ___ who was found to have incidental 4-5mm 
aneurysm at the junction of the right A1-A2 segments of the 
right ACA.  She presents ___ for elective stent assisted 
coiling. 
 
Past Medical History:
HTN
HLD
IBS
Concussion ___
headaches
BPPV

 
Social History:
___
Family History:
No family history of migraines or aneurysm 
- Mother: ___ fever, passed away d/t hepatitis from blood
transfusion 
- Father: alcoholism, died of renal failure 
- Brother: ___ abuse, died of OD 
 
Physical Exam:
ON DISCHARGE
============
Opens eyes: [X]spontaneous [ ]to voice [ ]to noxious

Orientation: [X]Person [X]Place [X]Time

Follows commands: [ ]Simple [X]Complex [ ]None

Pupils:  Right: 3-2mm      Left: 3-2mm

EOM: [X]Full [ ]Restricted

Face Symmetric: [X]Yes [ ]NoTongue Midline: [X]Yes [ ]No

Pronator Drift [ ]Yes [X]No     Speech Fluent: [X]Yes [ ]No

Comprehension intact [X]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[X]Sensation intact to light touch

Angio Groin Site: 
Patient with oozing right groin overnight, lido/epi and 
surgiflow
used overnight with good effect. Groin with slight redness noted
around dressing. 
[X]Dressing CDI.
[X]Soft, no hematoma  
[X]Palpable pulses
 
Pertinent Results:
See OMR for pertinent imaging & labs.
 
Brief Hospital Course:
On ___, Ms. ___ presented for elective stent assisted coiling 
of right A1/A2 segment ACA aneurysm.  Her operative course was 
uncomplicated; please see Operative Note for full details of 
procedure.  She was extubated post-procedure and monitored in 
___ for close neurologic and hemodynamic monitoring.  Overnight 
post-operatively patients groin site continued to bleed, 
pressure was applied to groin site without relief of oozing. 
Lidocaine and epinephrine along with surgigel was used to help 
stop the bleeding with success. She remained on bedrest 
throughout the night. H&H was stable on AM labs. On POD#1 her 
Aline and foley catheter were discontinued and she was 
ambulating independently, tolerating regular diet and voiding 
without difficulty. Pain was well-controlled with Tylenol as 
needed.  She was discharged home in stable condition on POD#1.
 
Medications on Admission:
omeprazole 20mg daily 
Losartan 12.5mg 
Acyclovir PRN for cold sore 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed 4G/day  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Losartan Potassium 12.5 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACA Aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity

·You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.

·Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.

·You make take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.

·Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.

·You make take a shower.

Medications

·Resume your normal medications and begin new medications as 
directed.

·You are instructed by your doctor to take one ___ a day. Do 
not take any other products that have aspirin in them. If you 
are unsure of what products contain Aspirin, as your pharmacist 
or call our office.

·You may use Acetaminophen(Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.

Care of the Puncture Site

·You will have a small bandage over the site.

·Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.

·Keep the site clean with soap and water and dry it carefully.

·You may use a Band-Aid if you wish.

 
What You ___ Experience:

·Mild tenderness and bruising at the puncture site (groin).

·Soreness in your arms from the intravenous lines.

·Mild to moderate headaches that last several days to a few 
weeks.

·Fatigue is very normal

·Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:

·Severe pain, swelling, redness or drainage from the puncture 
site. 

·Fever greater than101.5 degrees Fahrenheit

·Constipation

·Blood in your stool or urine

·Nausea and/or vomiting

·Extreme sleepiness and not being able to stay awake

·Severe headaches not relieved by pain relievers

·Seizures

·Any new problems with your vision or ability to speak

·Weakness or changes in sensation in your face, arms, or leg
 
Followup Instructions:
___